US06727264B1
N-{3-[1-(4-BENZOYLBENZYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure AJ and Scheme AV using [4-(bromomethyl)phenyl](phenyl)methanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 441.0 (M+H)+.

reactant | [4-(bromomethyl)phenyl](phenyl)methanone | BrCC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C14H11BrO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-{3-[1-(4-BENZOYLBENZYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | C(C1=CC=CC=C1)(=O)C1=CC=C(CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=C1 | C29H32N2O2
